US08283353B2
4′-({4-[trans-3-(2-ethyl-2-hydroxybutoxy)cyclobutyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
Ethyl [(trans-3-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclobutyl)oxy]acetate (0.077 g) was dissolved in tetrahydrofuran (10 mL), and ethylmagnesium bromide (3.0 M diethyl ether solution, 0.15 mL) was added at room temperature. The reaction mixture was stirred for 6 hr, saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.06 g, 76%).

reactant | Ethyl [(trans-3-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclobutyl)oxy]acetate | 0.077 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2C[C@H](C2)OCC(=O)OCC)=O | C30H31N5O4
reactant | ethylmagnesium bromide | 3.0 M, 0.15 mL | C(C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4′-({4-[trans-3-(2-ethyl-2-hydroxybutoxy)cyclobutyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.06 g, 76% | C(C)C(CO[C@@H]1C[C@H](C1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)(CC)O | C32H37N5O3
